************************************************************************
* auCdl Netlist:
* 
* Library Name:  InverterBasedTransceiver
* Top Cell Name: Receiver
* View Name:     schematic
* Netlisted on:  Sep 14 01:52:08 2020
************************************************************************

.INCLUDE  $PDK_HOME/LVS/Calibre/source.cdl
*.EQUATION
*.SCALE METER
.PARAM



************************************************************************
* Library Name: InverterBasedTransceiver
* Cell Name:    Inverter1
* View Name:    schematic
************************************************************************

.SUBCKT Inverter1 GND INP OUT VDD
*.PININFO INP:I OUT:O GND:B VDD:B
mMN2 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN1 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN0 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP5 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP4 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP3 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP2 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP1 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP0 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
.ENDS

************************************************************************
* Library Name: InverterBasedTransceiver
* Cell Name:    Resist_FB_INV
* View Name:    schematic
************************************************************************

.SUBCKT Resist_FB_INV GND INP OUT VDD
*.PININFO INP:I OUT:O GND:B VDD:B
XI0 GND INP OUT VDD / Inverter1
mMP1 OUT OUT net06 VDD pshort m=1 w=0.55 l=8.00 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP0 net06 net06 INP VDD pshort m=1 w=0.55 l=8.00 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
.ENDS

************************************************************************
* Library Name: InverterBasedTransceiver
* Cell Name:    Inverter2
* View Name:    schematic
************************************************************************

.SUBCKT Inverter2 GND INP OUT VDD
*.PININFO INP:I OUT:O GND:B VDD:B
mMP17 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP16 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP15 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP14 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP13 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP12 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP11 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP10 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP9 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP8 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP7 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP6 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP5 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP4 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP3 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP2 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP1 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP0 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN8 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN7 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN6 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN5 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN4 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN3 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN2 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN1 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN0 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
.ENDS

************************************************************************
* Library Name: InverterBasedTransceiver
* Cell Name:    Inverter0
* View Name:    schematic
************************************************************************

.SUBCKT Inverter0 GND INP OUT VDD
*.PININFO INP:I OUT:O GND:B VDD:B
mMP1 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP0 OUT INP VDD VDD pshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN0 OUT INP GND GND nshort m=1 w=5.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
.ENDS

************************************************************************
* Library Name: InverterBasedTransceiver
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND GND INP1 INP2 OUT VDD
*.PININFO INP1:I INP2:I OUT:O GND:B VDD:B
mMN1 net22 INP2 GND GND nshort m=1 w=7.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMN0 OUT INP1 net22 GND nshort m=1 w=7.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP1 OUT INP2 VDD VDD pshort m=1 w=7.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
mMP0 OUT INP1 VDD VDD pshort m=1 w=7.00 l=0.15 mult=1 sa=0.0 sb=0.0 sd=0.0 
+ topography=normal area=0.063 perim=1.14
.ENDS

************************************************************************
* Library Name: InverterBasedTransceiver
* Cell Name:    DFF
* View Name:    schematic
************************************************************************

.SUBCKT DFF CLK D GND Q Q_BAR VDD
*.PININFO CLK:I D:I Q:O Q_BAR:O GND:B VDD:B
XI9 GND CLK net015 VDD / Inverter0
XI0 GND D net3 VDD / Inverter0
XI8 GND Q net027 Q_BAR VDD / NAND
XI7 GND net028 Q_BAR Q VDD / NAND
XI6 GND net015 net07 net027 VDD / NAND
XI5 GND net08 net015 net028 VDD / NAND
XI4 GND net08 net17 net07 VDD / NAND
XI3 GND net13 net07 net08 VDD / NAND
XI2 GND net3 CLK net17 VDD / NAND
XI1 GND D CLK net13 VDD / NAND
.ENDS

************************************************************************
* Library Name: InverterBasedTransceiver
* Cell Name:    Receiver
* View Name:    schematic
************************************************************************

.SUBCKT Receiver CLK GND INP OUT OUT_B VDD
*.PININFO CLK:I INP:I OUT:O OUT_B:O GND:B VDD:B
XI0 GND INP net10 VDD / Resist_FB_INV
XI1 GND net10 net9 VDD / Inverter2
XI2 CLK net9 GND OUT OUT_B VDD / DFF
.ENDS

